US07932246B2
2-{6-[(2-Napthylsulphonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylic acid
Aqueous 1M NaOH (500 ml) was added to a solution of ethyl 2-{6-[(2-napthylsulphonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylate (25.40 g, 58.00 mmol) in THF (500 ml) and MeOH (100 ml) at r.t. The reaction mixture was stirred for 18 h. The organic solvents were removed in vacuo and the resultant aqueous solution was acidified to pH˜5 with 1M aq. HCl. A heavy white precipitate was formed which was isolated by filtration, washed with H2O and dried by azeotroping with toluene, giving the product as a white solid (22.19 g, 93%). LCMS purity 100%, m/z 411 [M+H]+, 1H NMR (400 MHz, d6-DMSO) δ: 1.97 (2H, s), 2.05 (1H, s), 3.64-3.67 (2H, m), 3.82-3.89 (2H, m), 7.84-7.88 (2H, m), 8.01 (1H, m), 8.21 (1H, d), 8.31-8.36 (3H, m), 8.66 (1H, s), 8.83 (2H, s).

reactant | NaOH | 1M, 500 ml | [OH-].[Na+]
reactant | ethyl 2-{6-[(2-napthylsulphonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylate | 58.00 mmol, 25.40 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C22H22N4O4S
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | MeOH | 100 ml | CO | CH4O
product | 2-{6-[(2-Napthylsulphonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylic acid | 22.19 g, 93% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1C2CN(CC12)C1=NC=C(C=N1)C(=O)O | C20H18N4O4S
